US09315521B2
2-{[(5-chloro-1-methyl-1H-imidazol-2-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol
5-chloro-2-(chloromethyl)-1-methyl-1H-imidazole hydrochloride (1.0 g, 5.0 mmol), potassium carbonate (1.65 g, 12 mmol), and 6-methyl-2-sulfanylpyrimidin-4-ol (560 mg, 4.0 mmol) were mixed in acetone (20 mL). The mixture was stirred at room temperature overnight. Acetone was then removed under reduced pressure. The crude solid was purified by column chromatography to provide the title compound as a white solid (850 mg, 79% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.20 (s, 3H), 3.60 (s, 3H), 4.51 (s, 2H), 6.04 (br, 1H), 6.93 (s, 1H); M+271.

reactant | 5-chloro-2-(chloromethyl)-1-methyl-1H-imidazole hydrochloride | 5.0 mmol, 1.0 g | Cl.ClC1=CN=C(N1C)CCl
reactant | potassium carbonate | 12 mmol, 1.65 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 4.0 mmol, 560 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 2-{[(5-chloro-1-methyl-1H-imidazol-2-yl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 850 mg, 79% yield | ClC1=CN=C(N1C)CSC1=NC(=CC(=N1)O)C | C10H11ClN4OS
